US08258169B2
To a solution of 4-(2,4,6-trichloro-phenyl)-butan-2-one O-methyl-oxime (0.650 g, 2.33 mmol) in acetic acid, sodiumcyanoborohydride (0.293 g, 4.66 mmol) was added. The reaction mass was stirred at room temp for 6 hours. When the TLC confirmed the completion of the reaction, the acetic acid in the reaction mass was removed by azeotropic distillation. The residue was then basified with 10% NaOH solution and it was extracted with ethyl acetate (3×30 ml). The combined ethyl acetate layers were washed with water followed by brine solution and dried over sodium sulfate before concentration. Resulting crude mass was purified by column chromatography using 60-120μ mesh silica gel and product collected at 3% ethyl acetate in hexane as eluent to give O-Methyl-N-[1-methyl-3-(2,4,6-trichloro-phenyl)-propyl]-hydroxylamine (0.6 g, 90%).

reactant | 4-(2,4,6-trichloro-phenyl)-butan-2-one O-methyl-oxime | 2.33 mmol, 0.650 g | CON=C(C)CCC1=C(C=C(C=C1Cl)Cl)Cl | C11H12Cl3NO
reactant | sodiumcyanoborohydride | 4.66 mmol, 0.293 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | O-Methyl-N-[1-methyl-3-(2,4,6-trichloro-phenyl)-propyl]-hydroxylamine | 0.6 g, 90% | CONC(CCC1=C(C=C(C=C1Cl)Cl)Cl)C | C11H14Cl3NO
